US09108977B2
1.1946 g of 1-[11-bromo-1-(2-methoxyethyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-yl]-2,2,2-trifluoroethanone, 2.2395 g of sodium trifluoroacetate, and 1.568 g of copper iodide were added to 24 ml of N-methylpyrrolidone under an argon atmosphere, followed by stirring at 170° C. for 18 hours. To the reaction mixture were added water and ethyl acetate, and filtered through celite was performed. The filtrate was subjected to liquid separation, the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: Hex-AcOEt) to obtain 239 mg of 2,2,2-trifluoro-1-[1-(2-methoxyethyl)-11-(trifluoromethyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-yl]ethanone as a pale yellow solid.

reactant | 1-[11-bromo-1-(2-methoxyethyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-yl]-2,2,2-trifluoroethanone | 1.1946 g | BrC=1C2=C(C=C3CCCN(C13)CCOC)CCN(CC2)C(C(F)(F)F)=O | C18H22BrF3N2O2
reactant | sodium trifluoroacetate | 2.2395 g | FC(C(=O)[O-])(F)F.[Na+]
reactant | N-methylpyrrolidone | 24 ml | CN1C(CCC1)=O | C5H9NO
reactant | water | O | H2O
catalyst | copper iodide | 1.568 g | [Cu](I)I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2,2-trifluoro-1-[1-(2-methoxyethyl)-11-(trifluoromethyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-yl]ethanone | 239 mg | FC(C(=O)N1CCC=2C=C3CCCN(C3=C(C2CC1)C(F)(F)F)CCOC)(F)F | C19H22F6N2O2
